US04049653
Preparation of 2-(3,5-Dimethoxyphenyl)-5-(4-Fluorophenyl)Pentane
A solution of 77 g. of 3-(4-fluorophenyl)propylbromide in 300 ml. of ether was added dropwise over a two hour period to a refluxing solution of 10 g. of magnesium in 100 ml. of ether. The reaction mixture was refluxed for an additional 30 minutes after the addition was completed. A solution of 68 g. of 3,5-dimethoxyacetophenone in 100 ml. of ether was then added dropwise to the reaction and the reaction mixture was refluxed for 11/2 hours. To the reaction was added 300 ml. of a saturated ammonium chloride solution dropwise with stirring. The layers were separated and the aqueous layer extracted with ether. The ether extract was dried over magnesium sulfate and the ether removed in vacuo to give an oil. An additional 111.7 g. of 3(4-fluorophenyl) propylbromide was reacted with 3.5-dimethoxyacetophenone in the above manner. The products from both runs were hydrogenated in ethanol-HCl using palladium as the catalyst. The solvents and catalyst were removed and the crude material distilled to yield 169.0 g. of 2-(3,5-dimethoxyphenyl)-5-(4-p-fluorophenyl)pentane, b.p. 145 - 155/0.05 mmHg.

reactant | 3-(4-fluorophenyl)propylbromide | FC1=CC=C(C=C1)CCCBr | C9H10BrF
reactant | magnesium | [Mg] | Mg
reactant | 3,5-dimethoxyacetophenone | CC(=O)C1=CC(=CC(=C1)OC)OC | C10H12O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol-HCl | Cl.C(C)O
catalyst | palladium | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | 2-(3,5-Dimethoxyphenyl)-5-(4-Fluorophenyl)Pentane | COC=1C=C(C=C(C1)OC)C(C)CCCC1=CC=C(C=C1)F | C19H23FO2
